US07772244B2
(R)-3-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-hydroxy-4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate
To a solution of (R)-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-nitrophenyl carbonate (150 mg, 0.23 mmol) and 3-(4-hydroxypiperidin-4-yl)quinolin-2(1H)-one (55 mg, 1.0 equiv) in dimethylformamide (1 mL) was added diisopropylethylamine (79 μL, 0.45 mmol). The reaction was stirred at room temperature overnight. The reaction was concentrated and purified by column chromatography (3:97:1 methanol/dichloromethane/triethylamine) to give 90 mg (52%) as a foam solid. Mass spec.: 771.48 (MH)+.

reactant | (R)-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-nitrophenyl carbonate | 0.23 mmol, 150 mg | C(O[C@@H](C(N1CCC(CC1)N1CCCCC1)=O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C34H47N5O7Si
reactant | 3-(4-hydroxypiperidin-4-yl)quinolin-2(1H)-one | 55 mg, 1.0 equiv | OC1(CCNCC1)C=1C(NC2=CC=CC=C2C1)=O | C14H16N2O2
reactant | diisopropylethylamine | 0.45 mmol, 79 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (R)-3-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-hydroxy-4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | OC1(CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)N1CCCCC1)=O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C=1C(NC2=CC=CC=C2C1)=O | C42H58N6O6Si
